US08609644B2
A solution of 3β-aminoandrostane-6,17-dione hydrochloride (150 mg) in CH2Cl2 was treated with powdered KOH (25 mg) and stirred for 15 min. 4-(tert-Butoxycarbonylamino)butyric acid (98 mg), EDAC (168 mg) and 4-dimethylaminopyridine (8 mg) were added at 0° C. The reaction temperature was raised to room temperature and stirred for 24 hrs. The mixture was washed with water (2×10 mL) and 5% NaHCO3 (10 mL). The organic layer was dried and evaporated to dryness. The residue was purified by flash chromatography (SiO2; CH2Cl2:MeOH:NH3 9:1:0.1) to give 3β-[4-(tert-butoxycarbonylamino)butyramido]-androstane-6,17-dione (161 mg, 75%). 1H-NMR (300 MHz, DMSO-d6, ppm from TMS): δ 7.68 (1H, d), 6.77 (1H, t), 3.46 (1H, m), 2.87 (2H, m), 2.45-1.10 (24H, m), 1.36 (9H, s), 0.78 (3H, s), 0.66 (3H, s).

reactant | 3β-aminoandrostane-6,17-dione hydrochloride | 150 mg | Cl.N[C@@H]1CC2C(C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O)=O
reactant | KOH | 25 mg | [OH-].[K+]
reactant | 4-(tert-Butoxycarbonylamino)butyric acid | 98 mg | C(C)(C)(C)OC(=O)NCCCC(=O)O | C9H17NO4
reactant | EDAC | 168 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 8 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 3β-[4-(tert-butoxycarbonylamino)butyramido]-androstane-6,17-dione | 161 mg, 75% | C(C)(C)(C)OC(=O)NCCCC(=O)N[C@@H]1CC2C(C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O)=O | C28H44N2O5
